US07314936B2
To a solution of the 3-methoxy-2-methoxymethy-1-propene (3.5 g, 30 mmol, 1.0 eq.) in THF (10 mL) at 0° C. was added BH3.THF (1M in THF, 18 mL, 0.6 eq.) and the resulting mixture was stirred for 40 min. The reaction was quenched with water followed by sodium perborate (10.6 g, 2.3 eq.), warmed to room temperature, stirred overnight, diluted with CH2Cl2 and filtered through celite. The filtrate was diluted with brine and the separated aqueous layer was extracted with CH2Cl2. The combined extracts were dried over Na2SO4 and filtered. The filtrate was didstilled at atmospheric pressure to give light yellow liquid residue. Fractional distillation of the residue at 40 milliTorr gave 3-methoxy-2-methoxymethypropan-1-ol (1.93 g, 48%). b.p.=90-110° C.

reactant | 3-methoxy-2-methoxymethy-1-propene | 30 mmol, 3.5 g, 1.0 eq. | COCC(=C)COC | C6H12O2
reactant | BH3.THF | 1M, 18 mL, 0.6 eq. | B.C1CCOC1
reactant | sodium perborate | 10.6 g, 2.3 eq. | B(=O)O[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-methoxy-2-methoxymethypropan-1-ol | 1.93 g, 48% | COCC(CO)COC | C6H14O3
